US04962109
A solution of sodium nitrite (1.33 gm) in water (5 cm3) was added dropwise to a cooled solution of ethyl (RS)-2-(2-aminopyrimidin-5-yl)-3-methylbutanoate (1.08 g) in concentrated aqueous hydrochloric acid solution (14.5 cm3), the temperature of the reaction mixture being maintained at less than 5° C. during the addition. The mixture was stirred at 0° C. for 3 hours, then allowed to warm to the ambient temperature and stood for 16 hours. The mixture was then cooled in an ice bath and neutralised by dropwise addition of aqueous potassium carbonate solution (the temperature of the mixture being maintained below 4° C.). The products were extracted into dichloromethane, the organic layers being washed with water and dried over anhydrous magnesium sulphate. Removal of the solvent by evaporation under reduced pressure gave a mixture of two products which was separated by column chromotography on a silica gel support, eluting firstly with dichloromethane containing 2% by volume ethyl acetate to give ethyl (RS)-2-(2-chloropyrimidin-5-yl)- 3-methylbutanoate (0.27 g), Product A, and secondly with dichloromethane containing 10% by volume methanol to give ethyl (RS)-2-(pyrimidin-2-one-5-yl)-3-methylbutanoate, (0.34 g), Product B.

reactant | sodium nitrite | 1.33 gm | N(=O)[O-].[Na+]
reactant | ethyl (RS)-2-(2-aminopyrimidin-5-yl)-3-methylbutanoate | 1.08 g | NC1=NC=C(C=N1)C(C(=O)OCC)C(C)C | C11H17N3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 14.5 cm3 | Cl | ClH
solvent | water | 5 cm3 | O | H2O
product | ethyl (RS)-2-(2-chloropyrimidin-5-yl)- 3-methylbutanoate | 0.27 g | ClC1=NC=C(C=N1)C(C(=O)OCC)C(C)C | C11H15ClN2O2
